US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-[3-chloro-4-(4-trifluoromethylphenoxymethyl)phenyl]-1-methyl-1H-1,2,4-triazole (Compound No. 199)
To 30 ml of N,N-dimethylformamide are added 4-trifluoromethyl phenol (0.77 g) and potassium carbonate (0.72 g) and 5-(4-bromomethyl-3-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole (1.60 g) is added thereto at room temperature with stirring, which is stirred at 120° C. for 1 hour. On completion of the reaction, the reaction solution is cooled to room temperature, poured into water and extracted with toluene. The organic layer is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography to give 1.50 g of desired compound (refractive index: 1.5961).

reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 4-trifluoromethyl phenol | 0.77 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(4-bromomethyl-3-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 1.60 g | BrCC1=C(C=C(C=C1)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl)Cl | C16H11BrCl2FN3
solvent | water | O | H2O
product | 3-(2-chloro-6-fluorophenyl)-5-[3-chloro-4-(4-trifluoromethylphenoxymethyl)phenyl]-1-methyl-1H-1,2,4-triazole | 1.50 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=C(C=C1)COC1=CC=C(C=C1)C(F)(F)F)Cl)C | C23H15Cl2F4N3O
